* =============================================================================
* Transient Analysis for Controlled Add/Subtract (CAS) Bit-Slice
* =============================================================================
.include "schematic.spice"

VVDD VDD 0 DC 1.8V
VVSS VSS 0 DC 0.0V

VA A 0 PULSE(0 1.8 100ps 30ps 30ps 1ns 2ns)
VB B 0 PULSE(0 1.8 150ps 30ps 30ps 2ns 4ns)
VCIN CIN 0 PULSE(0 1.8 200ps 30ps 30ps 4ns 8ns)
VCTRL CTRL 0 PULSE(0 1.8 0ps 50ps 50ps 5ns 10ns)

CL_SUM  SUM  0 10fF
CL_COUT COUT 0 10fF

XDUT A B CIN CTRL SUM COUT VDD VSS CAS_CELL

.tran 1ps 10ns
.measure tran tpd_a_to_sum TRIG V(A)=0.9 RISE=1 TARG V(SUM)=0.9 RISE=1
.measure tran tpd_ctrl_to_cout TRIG V(CTRL)=0.9 RISE=1 TARG V(COUT)=0.9 RISE=1

.end
